US05191079
Preparation of (2S)-2-benzoyloxymethylmorpholine hydrochloride:
(2S)-4-Benzyl-2-benzoyloxymethylmorpholine hydrochloride (4.0 g) is dissolved in methanol (32 ml) and thereto is added 10 % palladium-carbon (0.8 g), and the mixture is stirred under hydrogen pressure of 5 kg/cm2 at room temperature for 4 hours. Palladium-carbon is filtered off and the solvent is distilled off under reduced pressure. The residue is recrystallized from chloroform-ethanol to give the title compound (1.25 g).

reactant | (2S)-4-Benzyl-2-benzoyloxymethylmorpholine hydrochloride | 4.0 g | Cl.C(C1=CC=CC=C1)N1C[C@H](OCC1)COC(C1=CC=CC=C1)=O
solvent | methanol | 32 ml | CO | CH4O
catalyst | palladium-carbon | 0.8 g | [C].[Pd]
product | (2S)-2-benzoyloxymethylmorpholine hydrochloride | 1.25 g | Cl.C(C1=CC=CC=C1)(=O)OC[C@@H]1CNCCO1 | InChI=1S/C12H15NO3.ClH/c14-12(10-4-2-1-3-5-10)16-9-11-8-13-6-7-15-11;/h1-5,11,13H,6-9H2;1H/t11-;/m0./s1
